US07414061B2
a) 3-(4-Fluoro-phenyl)-5-methoxymethyl-isoxazole-4-carboxylic acid methyl ester
As described for Example 36c, (E)- and/or (Z)-N-hydroxy-4-fluoro-benzenecarboximidoyl chloride (12.1 g, 70 mmol) was converted, using 4-methoxy-3-oxo-butyric acid methyl ester instead of acetylacetone to the title compound (13.8 g, 74%) which was obtained as a light yellow solid. MS: m/e=266.0 [M+H]+.

reactant | (Z)-N-hydroxy-4-fluoro-benzenecarboximidoyl chloride | 70 mmol, 12.1 g | O\N=C(\C1=CC=C(C=C1)F)/Cl | C7H5ClFNO
reactant | 4-methoxy-3-oxo-butyric acid methyl ester | COC(CC(COC)=O)=O | C6H10O4
product | 3-(4-Fluoro-phenyl)-5-methoxymethyl-isoxazole-4-carboxylic acid methyl ester | 13.8 g, 74% | COC(=O)C=1C(=NOC1COC)C1=CC=C(C=C1)F | C13H12FNO4
